US05852014
Methyl 2,4-dimethylpyrimido[1,2-a]indole-10-Carboxylate
A stirred solution of methyl 2-aminoindole-3-carboxylate (I. Forbes et al, J. Chem. Soc. Perkin 1, 1992, 275) (0.25 g, 0.0013 mole) in xylene (5 ml) was treated with 2,4-pentanedione (0.13 g, 0.0013 mole) and a few crystals of 4-toluenesulphonic acid and heated under reflux for 2 h. The mixture was concentrated in vacuo and the residue dissolved in chloroform (20 ml), washed with water (2×20 ml), dried (MgSO4) and concentrated in vacuo to afford the title compound as a brown solid (0.25 g, 75%).

reactant | methyl 2-aminoindole-3-carboxylate | 0.0013 mole, 0.25 g | NC=1NC2=CC=CC=C2C1C(=O)OC | C10H10N2O2
reactant | 2,4-pentanedione | 0.0013 mole, 0.13 g | CC(CC(C)=O)=O | C5H8O2
reactant | 4-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Methyl 2,4-dimethylpyrimido[1,2-a]indole-10-Carboxylate | 0.25 g, 75% | CC1=NC=2N(C=3C=CC=CC3C2C(=O)OC)C(=C1)C | C15H14N2O2
